US07183443B2
To 27 mL buffer-solution of pH 7.4 (containing 0.1 mg/mL catalase, 6 M sodium formate, 0.25 M sodium chloride and 100 mM MOPS buffer) was added 25 mg PDF and 1.0 g rac-2-amino-3-phenylpropionitrile.HCl-salt. This solution was adjusted to pH 6.7. After 20 h of shaking at ambient temperature the reaction was stopped at 38% conversion. A small amount of the heterogeneous reaction mixture was extracted with CH2Cl2. (S)-2-Formamido-3-phenylpropionitrile with e.e.>99% (HPLC) was isolated from the organic layer. The precipitate in the remaining part of the reaction mixture was filtered yielding (S)-2-formamido-3-phenylpropionitrile (e.e.>99.5%) as a white solid.

reactant | sodium formate | 6 M | C(=O)[O-].[Na+]
reactant | sodium chloride | 0.25 M | [Cl-].[Na+]
reactant | MOPS | 100 mM | C1COCCN1CCCS(=O)(=O)O | C7H15NO4S
reactant | rac-2-amino-3-phenylpropionitrile | 1.0 g | NC(C#N)CC1=CC=CC=C1 | C9H10N2
product | (S)-2-Formamido-3-phenylpropionitrile | C(=O)N[C@H](C#N)CC1=CC=CC=C1 | C10H10N2O
